US05885986
A suspension of 11.3 g (0.0437 mol) of 5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid in 220 ml of dimethylformamide was treated portionwise with 7.80 g (0.048 mol) of carbonyldiimidazole while gassing with argon. After completion of the CO2 evolution the mixture was stirred at 55° for 2 hrs. After cooling to 0°-5° the pale yellow solution obtained was treated with 7.48 g (0.0532 mol) of L-serine methyl ester hydrochloride and with 6.7 ml (0.048 mol) of triethylamine and stirred at room temperature for 70 hrs. The light suspension was completely freed from the solvents. The residue was dissolved in hot water and extracted continuously with ethyl acetate. The yellow oily residue was chromatographed over silica gel with ethyl acetate as the eluent. There were obtained 10.7 g (68%) of methyl (S)-3-hydroxy-2-(5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-3-ylcarbonylamino)-propionate as a white solid. An analytical sample was recrystallized from ethyl acetate/diethyl ether and gave white crystals; m.p. 180°-181°. [α]D20 =+12.9° (CHCl3, c=1%).

reactant | 5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid | 0.0437 mol, 11.3 g | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C(=O)O | C13H11N3O3
reactant | carbonyldiimidazole | 0.048 mol, 7.80 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | CO2 | C(=O)=O | CO2
reactant | L-serine methyl ester hydrochloride | 0.0532 mol, 7.48 g | Cl.COC([C@@H](N)CO)=O
reactant | triethylamine | 0.048 mol, 6.7 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 220 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl (S)-3-hydroxy-2-(5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-3-ylcarbonylamino)-propionate | 10.7 g, 68% | OC[C@@H](C(=O)OC)NC(=O)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C17H18N4O5
